US04912135
Preparation of 3,5-bis(methoxyacetylamino)-4-chlorobenzotrifluoride:
To a solution of 4-chloro-3,5-diaminobenzotrifluoride (4.2 g) in pyridine (80 ml) is added dropwise methoxyacetyl chloride (4.0 ml) at room temperature. The mixture is stirred at room temperature for 3 hours, and thereafter, pyridine is distilled off under reduced pressure. To the residue is added water, and the resulting solid substance is separated by filtration and washed with water. The resulting crude crystals are recrystallized from ethanol to give the title compound (5.0 g) having the following physical properties.

reactant | 4-chloro-3,5-diaminobenzotrifluoride | 4.2 g | ClC1=C(C=C(C=C1N)C(F)(F)F)N | C7H6ClF3N2
reactant | methoxyacetyl chloride | 4.0 ml | COCC(=O)Cl | C3H5ClO2
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-bis(methoxyacetylamino)-4-chlorobenzotrifluoride | 5.0 g | COCC(=O)NC=1C=C(C=C(C1Cl)NC(COC)=O)C(F)(F)F | C13H14ClF3N2O4
